US04620870
2-Methyl-7-(phenylmethylthio)-2,3-dihydro-1,2-benzisothiazole-1,1-dioxide
To a solution of 12 g of potassium-t-butoxide in 100 ml of dry dimethylformamide was added 12.9 mls of benzyl mercaptan at -5° to 0° C. under an inert atmosphere followed by 12.2 g of 2-methyl-7-chloro-2,3-dihydro-1,2-benzisothiazole-1,1-dioxide. The mixture was stirred at room temperature for 16 hours and poured into water to give a gummy solid. The water was decanted and extracted with ethyl acetate. The gummy solid was slurried in ethyl acetate and filtered to give 5.9 g of the title compound as a light orange solid, m.p. 119°-122° C. The combined ethyl acetate extract and filtrate were washed with water and brine, dried over MgSO4 and concentrated to a solid which was slurried in ether and filtered to give an additional 7.6 g of product, m.p. 121°-124° C. Total yield was 13.5 g.

reactant | potassium-t-butoxide | 12 g | CC(C)([O-])C.[K+]
reactant | benzyl mercaptan | 12.9 mls | C(C1=CC=CC=C1)S | C7H8S
reactant | 2-methyl-7-chloro-2,3-dihydro-1,2-benzisothiazole-1,1-dioxide | 12.2 g | CN1S(C2=C(C1)C=CC=C2Cl)(=O)=O | C8H8ClNO2S
reactant | water | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-Methyl-7-(phenylmethylthio)-2,3-dihydro-1,2-benzisothiazole-1,1-dioxide | 5.9 g | CN1S(C2=C(C1)C=CC=C2SCC2=CC=CC=C2)(=O)=O | C15H15NO2S2
